US06552067B2
Analogous to the procedure described for Example 1A, Step E, 4-(3-{2-[3-(tert-butyl-dimethyl-silanyloxy)-4-phenyl-butyl]-5-oxo-pyrrolidin-1-yl}-propyl)-benzonitrile (257.6 mg, 0.525 mmol) was deprotected with TBAF (1M in THF, 0.79 mL, 0.79 mmol) over 24 h. Purification by medium pressure chromatography (1:1 EtOAc: hexanes to EtOAc to 1% MeOH in CH2Cl2 to 3% MeOH in CH2Cl2) provided 4-{3-[2-(3-hydroxy-4-phenyl-butyl)-5-oxo-pyrrolidin-1-yl]-propyl}-benzonitrile (157.8 mg). 1H NMR (CDCl3) δ7.56 (m, 2H), 7.26 (m, 7H), 3.80 (m, 1H), 3.67-3.55 (m, 2H), 2.98 (m, 1H), 2.80 (m, 1H), 2.65 (t, 2H), 2.43-2.24 (m, 2H), 2.08 (m, 1H), 1.89-1.33 (m, 9H); MS 375.3 (M−1).

reactant | 4-(3-{2-[3-(tert-butyl-dimethyl-silanyloxy)-4-phenyl-butyl]-5-oxo-pyrrolidin-1-yl}-propyl)-benzonitrile | 0.525 mmol, 257.6 mg | C(C)(C)(C)[Si](OC(CCC1N(C(CC1)=O)CCCC1=CC=C(C#N)C=C1)CC1=CC=CC=C1)(C)C | C30H42N2O2Si
reactant | TBAF | 0.79 mmol, 1M, 0.79 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
product | 4-{3-[2-(3-hydroxy-4-phenyl-butyl)-5-oxo-pyrrolidin-1-yl]-propyl}-benzonitrile | 157.8 mg | OC(CCC1N(C(CC1)=O)CCCC1=CC=C(C#N)C=C1)CC1=CC=CC=C1 | C24H28N2O2
